US07601702B2
2-[Chloro(diphenyl)methyl]pyridine hydrochloride (34)
To a mixture of diphenyl(pyridin-2-yl)methanol (4 g, 0.015 mol) in thionylchloride (50 mL) was added acetylchloride (15 mL, 0.195 mol) at RT and heated to 50° C. for 48 h. The reaction mixture was concentrated under vacuum and the residue was azeotroped with dry benzene (100 mL×2) to give the title compound as the hydrochloride salt (4.4 g, >95%).

reactant | diphenyl(pyridin-2-yl)methanol | 0.015 mol, 4 g | C1(=CC=CC=C1)C(O)(C1=NC=CC=C1)C1=CC=CC=C1 | C18H15NO
reactant | acetylchloride | 0.195 mol, 15 mL | C(C)(=O)Cl | C2H3ClO
solvent | thionylchloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-[Chloro(diphenyl)methyl]pyridine hydrochloride | Cl.ClC(C1=NC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H14ClN.ClH/c19-18(15-9-3-1-4-10-15,16-11-5-2-6-12-16)17-13-7-8-14-20-17;/h1-14H;1H
